US04209621
2-Hydrazino-4-phenylpyrimidine
A solution of 1.0 g. of 2-methylsulfonyl-4-phenylpyrimidine in 25 ml. of absolute ethanol is treated with 0.34 g. of 95% hydrazine. The reaction mixture is refluxed for 6 hours and then cooled and the desired product is obtained by filtration, m.p. 116°-118° C.

reactant | 2-methylsulfonyl-4-phenylpyrimidine | CS(=O)(=O)C1=NC=CC(=N1)C1=CC=CC=C1 | C11H10N2O2S
reactant | hydrazine | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 2-Hydrazino-4-phenylpyrimidine | N(N)C1=NC=CC(=N1)C1=CC=CC=C1 | C10H10N4
